* Netlist gerada automaticamente a partir do circuit.json
.tran 1

R1 N001 N002 820.00k
R2 N002 N003 68.00k
R3 N002 0 27.00
R4 N003 N004 3.90k
R5 N005 N004 5.60
R6 0 N004 39.00k
R7 N003 N005 330.00
V1 0 N001 30

.end